US05010196
A solution of N-isopropyl-1,3-propanediamine (116 g, 1 M) in isopropyl alcohol (1 l ) maintained ca 10° was treated dropwise with 40% aqueous HCHO solution (75 ml, 1 M). After 1 hour the solvents were evaporated under reduced pressure and the residue distilled to give N-isopropylhexahydropyrimidine (100 g, 78%), Bp 65° /20 mbar.

reactant | N-isopropyl-1,3-propanediamine | 1 M, 116 g | C(C)(C)NCCCN | C6H16N2
reactant | HCHO | 1 M, 75 ml | C=O | CH2O
solvent | isopropyl alcohol | 1 l | C(C)(C)O | C3H8O
product | N-isopropylhexahydropyrimidine | 100 g, 78% | C(C)(C)N1CNCCC1 | C7H16N2
